Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / codeine
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman with history of dyspepsia (on H2 
blocker) who presents with nausea/vomiting x3 episodes since 
last night.

She reports nausea, vomiting since last night, one episode 
yesterday and 2 more episodes this morning. She recently 
underwent a dental procedure/root canal 3 weeks ago, and 
following procedure had persistent pain for which her dentist 
prescribed her amoxicillin and Tylenol/codeine. She took both 
the medications at around 5pm and proceeded to have emesis at 
around 8pm. She did not feel well and went to bed. This AM, woke 
up and has two more episodes of vomiting. No hematemesis, 
abdominal pain, fever, chills, diarrhea, melena. Pt did not take 
any more Tylenol/codeine. Per son, this is similar to a prior 
incident ___ years ago when she also developed emesis after 
taking Tylenol/codeine. She has never taken amoxicillin in the 
past. On ROS, denies fevers, SOB, chest pain, no abdominal pain, 
diarrhea/constipation. She does endorse anorexia, unable to 
tolerate any PO today. Of note, she takes ranitidine for 
dyspepsia, which is chronic. She is being worked up for a 
chronic dry cough, for which her PCP recently switched from 
lisinopril to losartan. She is also scheduled for EGD on ___ to 
work up for gastroesophageal etiologies.

In the ED, initial VS were: 97.3 77 127/75 18 97% RA 
ED labs were notable for AST 54, ALT 66, otherwise CBC,BMP, trop 
wnl
RUQ US showed the common bile duct is mildly dilated measuring 
up to 8 mm. Recommend MRCP for further evaluation of 
choledocholithiasis.
Patient was given Zofran 4mg IV, Zofran 4mg ODT, 1l NS and 
meclizine 12.5mg x1

ERCP aware and plan for admission to ___ for MRCP. Still 
unable to tolerate much PO in the Ed.

Transfer VS were: 98.5 71 120/ 14 
When seen on the floor, a ten point ROS was conducted and was 
negative except as above in the HPI.
 
Past Medical History:
DYSPEPSIA                                                       
DIABETES TYPE II                                                
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
VERTIGO                                                         
 
Social History:
Country of Origin:  ___                                  
Marital status:     Married                                     
Lives with:         ___                            
Lives in:           Apartment                                   
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Tobacco use:        Never smoker                                
Tobacco Use         No                                          
Comments:                                                       
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           None                                        
Seat belt/vehicle   Always                                      
restraint use:                                                  
Bike helmet use:    N/A                    
 
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect

DISCHARGE EXAM:
VS: 97.9PO 132/83 66 16 98 RA 
GEN: Alert. Fatigued appearing but comfortable, no acute signs 
of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, moderately distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm.

 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:50PM   GLUCOSE-139* UREA N-12 CREAT-0.7 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-27 ANION GAP-18
___ 12:50PM   estGFR-Using this
___ 12:50PM   ALT(SGPT)-66* AST(SGOT)-54* ALK PHOS-123* TOT 
BILI-0.5
___ 12:50PM   LIPASE-78*
___ 12:50PM   cTropnT-<0.01
___ 12:50PM   ALBUMIN-4.3
___ 12:50PM   WBC-7.3 RBC-4.36 HGB-12.4 HCT-38.0 MCV-87 
MCH-28.4 MCHC-32.6 RDW-13.3 RDWSD-42.7
___ 12:50PM   NEUTS-67.3 ___ MONOS-5.0 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-4.90 AbsLymp-1.91 AbsMono-0.36 
AbsEos-0.04 AbsBaso-0.03
___ 12:50PM   PLT COUNT-179

IMAGING
-------
MRCP ___:
1. Mild central intrahepatic and common bile duct dilatation 
measuring up to 8 mm, with the ampullary portion not visualized, 
which can be seen with sphincter of Oddi dysfunction or 
ampullary stenosis.  No cholelithiasis, choledocholithiasis, or 
other obstructing mass seen. 
2.  Mild diffuse hepatic steatosis with calculated fat fraction 
of 5%. 
3.  Focus of susceptibility artifact in the pancreatic head, 
most likely representing a small periampullary duodenal 
diverticulum. 

RUQ ultrasound ___:
The common bile duct is mildly dilated measuring up to 8 mm.  
Recommend MRCP for further evaluation of choledocholithiasis. 

DISCHARGE LABS
--------------
___ 06:20AM BLOOD WBC-6.8 RBC-3.99 Hgb-11.3 Hct-35.6 MCV-89 
MCH-28.3 MCHC-31.7* RDW-13.3 RDWSD-43.8 Plt ___
___ 09:25AM BLOOD Glucose-151* UreaN-10 Creat-0.7 Na-140 
K-3.7 Cl-101 HCO3-27 AnGap-16
___ 09:25AM BLOOD ALT-64* AST-49* AlkPhos-120* TotBili-0.5
___ 09:25AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.___ year old woman with history of dyspepsia (on H2 blocker) who 
presents with nausea and vomiting.

ACTIVE ISSUES
=============
# Nausea, vomiting
# History of dyspepsia
She has no significant abdominal exam findings or lab 
abnormalities, other than mild transaminitis.  Differential is 
broad including intolerance to meds taken earlier (codeine, 
amoxicillin), ongoing dyspepsia/GERD, peptic ulcer disease, 
gastritis, choledocholithiasis (given biliary dilation, 
suspicion raised for possible CBD stone).  MRCP generally 
unremarkable.  Symptoms improved during hospitalization.  She 
will follow up with Dr. ___ after 
discharge for potential further work-up.  She will remain on her 
home omeprazole and ranitidine.

# Mild transaminase elevation
# Biliary dilation
RUQ ultrasound showed the common bile duct is mildly dilated 
measuring up to 8 mm. Radiology recommended MRCP for further 
evaluation of choledocholithiasis. Given episodes of 
nausea/vomiting, suspicion raised for possible CBD stone.  MRCP 
showed no evidence of bile duct obstruction.  She should have 
repeat LFTs as an outpatient, and will follow up with 
Gastroenterology as above.  Atorvastatin will be held for the 
time being given LFT abnormalities.

# Hypertension: continued home losartan, HCTZ

# Hyperlipidemia: continued Atorvastatin 40 mg PO QPM 

# Diabetes: held MetFORMIN (Glucophage) 500 mg PO DAILY while 
admitted, but this will be restarted on discharge. 

TRANSITIONS OF CARE
===================
# Follow-up: She will follow up with Dr. ___ 
(___) after discharge for potential further 
work-up.  She should have repeat LFTs as an outpatient.
 
# Code status: full code, confirmed

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
3. MetFORMIN (Glucophage) 500 mg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. Ranitidine 150 mg PO BID 
6. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
7. Vitamin D 1000 UNIT PO DAILY 
8. Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. simethicone 250 mg oral TID:PRN 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching  
4.  losartan-hydrochlorothiazide 50-12.5 mg oral DAILY  
5.  MetFORMIN (Glucophage) 500 mg PO DAILY  
6.  Omeprazole 20 mg PO BID  
7.  Ranitidine 150 mg PO BID  
8.  simethicone 250 mg oral TID:PRN  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nausea and vomiting
Bile duct dilation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent admission at 
___.  You came for further evaluation of nausea and vomiting.  
While here, radiologic imaging studies showed that your bile 
duct was dilated.  You underwent tests to determine what the 
cause of this was, with nothing found.  It was determined that 
you needed no further intervention while hospitalized.  You were 
able to tolerate a full diet and  your symptoms went away.  

It will be important for you to take all medications as 
prescribed and follow up with all appointments as listed below.

Good luck!
 
Followup Instructions:
___